2138-01-13 06:46:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   Difficulty drawing labs overnight had Right IJ placed
 URINE CULTURE - At [**2138-1-13**] 01:00 AM
 BLOOD CULTURED - At [**2138-1-13**] 02:08 AM
 MULTI LUMEN - START [**2138-1-13**] 02:46 AM
   Allergies:
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2138-1-13**] 01:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2138-1-13**] 06:46 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.3
C (97.4
   Tcurrent: 36.3
C (97.4
   HR: 81 (63 - 81) bpm
   BP: 117/59(72) {102/59(71) - 137/76(86)} mmHg
   RR: 22 (12 - 22) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 66 Inch
             Total In:
             1,522 mL
   PO:
             TF:
   IVF:
   1,522 mL
   Blood products:
   Total out:
                                                                     40 mL
                                                                    395 mL
   Urine:
                                                                     40 mL
                                                                    395 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    -40 mL
                                                                  1,127 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 100%
   ABG: ///22/
   Physical Examination
   General Young woman in no acute distress
   HEENT Sclera anicteric, conjunctiva pink, MMM
   Neck No JVD
   Pulm Lungs clear bilaterally, no wheezing or rales
   CV Regular S1 S2 no m/r/g
   Abd Soft nontender +bowel sounds, no HSM, nontender
   Extrem Warm no edema full distal pulses
   Derm No jaundice or rash, no stigmata of chronic liver disease
   Neuro Alert and awake, attentive, no asterixis, moving all extremities.
   No gross focal deficits.
   Psych Affect irritable, says she would "not want another person's
   liver" if needed even if she might die without transplant because "it's
   up to me"
   Labs / Radiology
   267 K/uL
   13.2 g/dL
   221 mg/dL
   0.5 mg/dL
   22 mEq/L
   3.7 mEq/L
   6 mg/dL
   107 mEq/L
   135 mEq/L
   37.7 %
   13.4 K/uL
        [image002.jpg]
                             [**2138-1-13**]  03:23 AM
   WBC
   13.4
   Hct
   37.7
   Plt
   267
   Cr
   0.5
   Glucose
   221
   Other labs: PT / PTT / INR:42.5/45.3/4.7, ALT / AST:966/570, Alk Phos /
   T Bili:94/4.6, Lactic Acid:1.9 mmol/L, LDH:611 IU/L, Ca++:7.7 mg/dL,
   Mg++:1.9 mg/dL, PO4:2.0 mg/dL
   Assessment and Plan
   18F presents with transaminitis following recent acetaminophen
   overdose, concerning for suicide attempt.
   1. Acute hepatic failure, acetaminophen overdose
   Very likely secondary to recent massive acetaminophen overdose. If time
   course accurate, patient is well above the treatment line on the
   Rumack-[**Doctor Last Name 4897**] nomogram. Less likely infectious, ischemic, or
   autoimmune in etiology. Transaminases and INR elevated today, despite
   NAC
   - Continue IV NAC per toxicology guidelines: 50mg/kg over 4 hrs then
   100mg/kg over 16 hrs, to continue thereafter pending transaminases,
   Tylenol level and INR
   - Continue to check acetaminophen levels q2h til peak
   - Follow INR/ glucose Q4H, LFTs [**Hospital1 7**]
   - Holding off on FFP at this point, no active bleeding. Keep type and
   screen active. Will defer on lactulose for now as not encephalopathic
   - Serial neurologic exams monitoring for signs of increased ICP
   - F/u Hepatitis B and C serologies, consent for HIV per liver
   recommendations
   - Abdominal ultrasound with dopplers
   - Zofran prn nausea
   - GI and transplant surgery recommendations appreciated
   .
   2. Leukocytosis
   Probably secondary to stress of acute illness, but will check urine and
   blood cultures and CXR - given high risk for infection with liver
   failure. Reculture if febrile.
   - Continue to follow liver recommendations, at this point no
   prophylaxis for SBP.  Will consider vanc/zosyn in future if needed
   .
   3. h/o abdominal pain-currently pain free
   Unclear if patient is fabricating this to explain her tylenol
   ingestion. Abdominal exam currently benign. Will follow closely, with
   further testing based on changing symptoms or exam.
   .
   4. suspected suicide attempt
   - Psychiatry and social work consults tonight. Monitor with sitter,
   suicide precautions.
   - Attempt to obtain further outside records re ?psych history.
   - Based on patient's poor insight (and apparent passive SI) she does
   not have capacity to refuse care at this time; discussed with
   psychiatry who agreed with this assessment.
   5. hyponatremia
   Suspect this is secondary to volume depletion
   - check serum osms, urine osms and urine lytes
   - IVF resuscitation, follow Na
   FEN: Regular diet, d/c IVF
   Prophy: Pneumoboots, PPI
   Code: Full
   Contacts: [**Name2 (NI) **]: [**Telephone/Fax (1) 4977**] ([**First Name8 (NamePattern2) 4978**] [**Last Name (NamePattern1) 4979**]).  Family
   friend [**Name (NI) **] [**Name (NI) 4980**]) [**Telephone/Fax (1) 4981**]
 [**Last Name 12**] PROBLEM - ENTER DESCRIPTION IN COMMENTS
   tylenol overdose
 LIVER FUNCTION ABNORMALITIES
 SUICIDALITY / SUICIDE ATTEMPT
 HYPONATREMIA (LOW SODIUM, HYPOSMOLALITY)
 LEUKOCYTOSIS
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   18 Gauge - [**2138-1-12**] 11:29 PM
   Multi Lumen - [**2138-1-13**] 02:46 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2138-01-14 07:22:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 ULTRASOUND - At [**2138-1-13**] 01:13 PM
   - Acetaminophen levels slowly trending down, monitor in AM
   - LFTs, INR, Glucose stable
   Allergies:
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2138-1-14**] 07:22 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.5
C (97.7
   Tcurrent: 36.1
C (96.9
   HR: 77 (56 - 77) bpm
   BP: 114/54(69) {94/43(57) - 122/75(86)} mmHg
   RR: 20 (13 - 22) insp/min
   SpO2: 99%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 66 Inch
             Total In:
                                                                  4,082 mL
                                                                    213 mL
   PO:
                                                                    840 mL
             TF:
   IVF:
                                                                  3,242 mL
                                                                    213 mL
   Blood products:
   Total out:
                                                                  1,245 mL
                                                                    360 mL
   Urine:
                                                                  1,245 mL
                                                                    360 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  2,837 mL
                                                                   -147 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 99%
   ABG: ///25/
   Physical Examination
   General Young woman in no acute distress
   HEENT Sclera anicteric, conjunctiva pink, MMM
   Neck No JVD
   Pulm Lungs clear bilaterally, no wheezing or rales
   CV Regular S1 S2 no m/r/g
   Abd Soft nontender +bowel sounds, no HSM, nontender
   Extrem Warm no edema full distal pulses
   Derm No jaundice or rash, no stigmata of chronic liver disease
   Neuro Alert and awake, attentive, no asterixis, moving all extremities.
   No gross focal deficits.
   Psych Affect irritable, says she would "not want another person's
   liver" if needed even if she might die without transplant because "it's
   up to me"
   Labs / Radiology
   221 K/uL
   13.7 g/dL
   107 mg/dL
   0.5 mg/dL
   25 mEq/L
   3.2 mEq/L
   5 mg/dL
   106 mEq/L
   136 mEq/L
   38.9 %
   12.4 K/uL
        [image002.jpg]
                             [**2138-1-13**]  03:23 AM
                             [**2138-1-13**]  11:20 AM
                             [**2138-1-13**]  03:41 PM
                             [**2138-1-13**]  06:45 PM
                             [**2138-1-14**]  03:40 AM
   WBC
   13.4
   12.4
   Hct
   37.7
   38.9
   Plt
   267
   221
   Cr
   0.5
   0.5
   Glucose
   221
   157
   141
   129
   107
   Other labs: PT / PTT / INR:40.6/46.7/4.4, ALT / AST:3235/1438, Alk Phos
   / T Bili:123/4.7, Lactic Acid:1.9 mmol/L, LDH:611 IU/L, Ca++:8.1 mg/dL,
   Mg++:1.9 mg/dL, PO4:1.8 mg/dL
   Fluid analysis / Other labs: Acetaminophen Level
   [**2138-1-14**] 03:40AM    12.1
   [**2138-1-13**] 06:45PM    22.3
   [**2138-1-13**] 01:51PM    33.6*
   [**2138-1-13**] 11:20AM    42.9*
   [**2138-1-13**] 03:23AM    67.7*1
   [**2138-1-12**] 08:06PM    120.3*2
   AST/ALT
   3235* 1438*     123*   4.7*
   [**2135**]* 911*     104   4.8*
   1842* 873*     106   5.1*
   1545* 772*     104   4.7*
   966*  570* 611*   94   4.6* 1.0* 3.6
   828* 523*     117   4.7*
   Imaging: None.
   Microbiology: Viral Studies Pending
   RPR NR
   Assessment and Plan
   18F presents with transaminitis following recent acetaminophen
   overdose, concerning for suicide attempt.
   1. Acute hepatic failure, acetaminophen overdose
   - Continue IV NAC 6.25mg/kg/hr until INR <2, Transaminases <1000
   - Follow INR/ glucose Q4H, LFTs [**Hospital1 7**]
   - Serial neurologic exams monitoring for signs of increased ICP
   - F/u Hepatitis B and C serologies, consent for HIV per liver
   recommendations
   - GI and transplant surgery recommendations appreciated
   2. Leukocytosis
   Probably secondary to stress of acute illness, but will check urine and
   blood cultures and CXR - given high risk for infection with liver
   failure. Reculture if febrile.
   - Continue to follow liver recommendations, at this point no
   prophylaxis for SBP.  Will consider vanc/zosyn in future if needed
   3. h/o abdominal pain-currently pain free
   Unclear if patient is fabricating this to explain her tylenol
   ingestion. Abdominal exam currently benign. Will follow closely, with
   further testing based on changing symptoms or exam.
   4. suspected suicide attempt
   - Psychiatry and social work consults tonight. Monitor with sitter,
   suicide precautions.
   - Attempt to obtain further outside records re ?psych history.
   - Based on patient's poor insight (and apparent passive SI) she does
   not have capacity to refuse care at this time; discussed with
   psychiatry who agreed with this assessment.
   5. hyponatremia
   Suspect this is secondary to volume depletion
   - check serum osms, urine osms and urine lytes
   - IVF resuscitation, follow Na
   FEN: Regular diet, d/c IVF
   Prophy: Pneumoboots, PPI
   Code: Full
   Contacts: [**Name2 (NI) **]: [**Telephone/Fax (1) 4977**] ([**First Name8 (NamePattern2) 4978**] [**Last Name (NamePattern1) 4979**]).  Family
   friend [**Name (NI) **] [**Name (NI) 4980**]) [**Telephone/Fax (1) 4981**]
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   18 Gauge - [**2138-1-12**] 11:29 PM
   Multi Lumen - [**2138-1-13**] 02:46 AM
   20 Gauge - [**2138-1-13**] 08:19 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2138-01-15 07:00:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   - LFT's, INR, T bili all trending down
   - The patient, guardian and nurse had a long discussion regarding her
   intentions.  Apparently, the patient traveled to [**Location (un) 23**] to go shopping,
   acquired abdominal pain, therefore took tylenol.  She had never taken
   medication on her own before, so did not know how much to take.  She
   denies that this was a suicide attempt.  She is willing to talk with
   psychiatry, however will require a translator.
   Patient is without complaint and was requesting guidance on breakfast
   choices to minimize oil, fat, & wheat
   Allergies:
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2138-1-15**] 12:02 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2138-1-15**] 07:00 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.4
C (97.6
   Tcurrent: 36.3
C (97.3
   HR: 66 (60 - 125) bpm
   BP: 95/49(60) {95/49(60) - 118/74(81)} mmHg
   RR: 10 (10 - 28) insp/min
   SpO2: 99%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 66 Inch
             Total In:
                                                                  1,307 mL
                                                                    193 mL
   PO:
                                                                    480 mL
             TF:
   IVF:
                                                                    827 mL
                                                                    193 mL
   Blood products:
   Total out:
                                                                  2,045 mL
                                                                    640 mL
   Urine:
                                                                  2,045 mL
                                                                    640 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -738 mL
                                                                   -447 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 99%
   ABG: ///27/
   Physical Examination
   General Young woman in no acute distress
   HEENT Sclera anicteric, conjunctiva pink, MMM
   Neck No JVD
   Pulm Lungs clear bilaterally, no wheezing or rales
   CV Regular S1 S2 no m/r/g
   Abd Soft nontender +bowel sounds, no HSM, nontender
   Extrem Warm no edema full distal pulses
   Derm No jaundice or rash
   Neuro Alert and awake, attentive, no asterixis, moving all extremities.
   No gross focal deficits.
   Psych: Flat affect
   Labs / Radiology
   207 K/uL
   12.8 g/dL
   101 mg/dL
   0.4 mg/dL
   27 mEq/L
   3.6 mEq/L
   5 mg/dL
   105 mEq/L
   139 mEq/L
   36.4 %
   8.5 K/uL
        [image002.jpg]
                             [**2138-1-13**]  03:23 AM
                             [**2138-1-13**]  11:20 AM
                             [**2138-1-13**]  03:41 PM
                             [**2138-1-13**]  06:45 PM
                             [**2138-1-14**]  03:40 AM
                             [**2138-1-14**]  12:53 PM
                             [**2138-1-14**]  06:14 PM
                             [**2138-1-14**]  11:50 PM
                             [**2138-1-15**]  05:00 AM
   WBC
   13.4
   12.4
   12.3
   11.4
   8.5
   Hct
   37.7
   38.9
   39.1
   36.9
   36.4
   Plt
   [**Telephone/Fax (3) 5032**]10
   207
   Cr
   0.5
   0.5
   0.5
   0.5
   0.4
   Glucose
   221
   157
   141
   129
   107
   109
   105
   129
   101
   Other labs: PT / PTT / INR:27.9/41.5/2.8, ALT / AST:3385/759, Alk Phos
   / T Bili:125/3.3, Lactic Acid:1.9 mmol/L, LDH:437 IU/L, Ca++:7.6 mg/dL,
   Mg++:2.0 mg/dL, PO4:1.7 mg/dL
   Fluid analysis / Other labs: [**2138-1-15**] 05:00AM    3385* 759* 437*
   125*   3.3*
   [**2138-1-14**] 11:50PM    3684* 974*     126*   3.6*
   [**2138-1-14**] 06:14PM    3979* 1353* 977
   [**2138-1-14**] 12:53PM    4293* 1690*     133*   4.5*
   Serum Acetmnphn Negative
   Imaging: None
   Microbiology: CMV IgG +, IgM -
   EBV IgG +, Rubella Immune
   Assessment and Plan
   18F presents with transaminitis following recent acetaminophen
   overdose/ suicide attempt.  She continues to look surprisingly well
   today given the quantity of her ingestion.
   1. Acute hepatic failure due to acetaminophen overdose.  Transaminases,
   Bili, INR have peaked and are falling. continue to rise.  Acetaminophen
   level undetectable
   - Continue IV NAC 6.25mg/kg/hr until INR <2, Transaminases <1000
   - Follow INR/ glucose, LFTs [**Hospital1 7**]
   - Serial neurologic exams monitoring for signs of increased ICP
   2. Suicide Attempt, circumstances uncertain, denied by patient
   - Psychiatry and social work following.
   - 1:1 Sitter
   - Likely need psych hospitalization
   - Cannot refuse life saving treatment or leave AMA
   3. Orthostatic Hypotension:  The patient is showing signs of
   orthostasis.
   - IV infusion not indicated as clinically euvolemic, PO intake
   sufficient
   - Slow transfers from bed to chair
   - Regular ambulation PT once called out
   #. Leukocytosis: Resolved.
   #. Hyponatremia: Resolved:  D/C Foley
   FEN: Regular diet, d/c IVF
   Access: R IJ, peripherals: Plan for PICC when INR <2, then d/c RIJ
   Prophy: Pneumoboots, PPI
   Code: Full
   Dispo: Called out to [**Doctor Last Name 976**]- [**Doctor Last Name 2578**]/HMED
   Contacts: [**Name2 (NI) **]: [**Telephone/Fax (1) 4977**] ([**First Name8 (NamePattern2) 4978**] [**Last Name (NamePattern1) 4979**]).  Family
   friend [**Name (NI) **] [**Name (NI) 4980**]) [**Telephone/Fax (1) 4981**]
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   18 Gauge - [**2138-1-12**] 11:29 PM
   Multi Lumen - [**2138-1-13**] 02:46 AM
   Prophylaxis:
   DVT: Boots
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:Transfer to floor